US07772271B2
tert-butyl 6-methoxy-1H-indole-1-carboxylate, from example 1BO, (2.50 g, 8.6 mmol) is dissolved in anhydrous dimethoxyethane (21.5 mL). To the solution is added 2-chloro-6-iodobenzothiazole (2.42 g, 8.2 mmol), cesium fluoride (2.53 g, 16.7 mmol) and PdCl2(PPh3)2 (0.23 g, 0.33 mmol). The reaction mixture is heated at reflux. After 17 h the reaction mixture is cooled to room temperature, diluted with water (100 mL) and extracted with ethyl acetate (4×20 mL). The extract is washed with saturated aqueous NaHCO3 (20 mL), dried over MgSO4 and concentrated under vacuum to give tert-butyl 2-(2-chlorobenzothiazol-6-yl)-6-methoxy-indole-1-carboxylate (2.95 g, 83%) as a hard foam.

reactant | tert-butyl 6-methoxy-1H-indole-1-carboxylate | COC1=CC=C2C=CN(C2=C1)C(=O)OC(C)(C)C | C14H17NO3
reactant | 2-chloro-6-iodobenzothiazole | 8.2 mmol, 2.42 g | ClC=1SC2=C(N1)C=CC(=C2)I | C7H3ClINS
reactant | cesium fluoride | 16.7 mmol, 2.53 g | [F-].[Cs+]
solvent | dimethoxyethane | 21.5 mL | C(OC)COC | C4H10O2
solvent | water | 100 mL | O | H2O
catalyst | PdCl2(PPh3)2 | 0.33 mmol, 0.23 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 2-(2-chlorobenzothiazol-6-yl)-6-methoxy-indole-1-carboxylate | 2.95 g, 83% | ClC=1SC2=C(N1)C=CC(=C2)C=2N(C1=CC(=CC=C1C2)OC)C(=O)OC(C)(C)C | C21H19ClN2O3S
